US05232923
Ethyl 3,4-diacetoxyphenylpropionate and N-methylbenzylamine were used to obtain N-Methyl-N-benzyl-3,4-dihydroxyphenylpropionamide by carrying out the same procedures as described in Example 1.

reactant | Ethyl 3,4-diacetoxyphenylpropionate | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | N-Methyl-N-benzyl-3,4-dihydroxyphenylpropionamide | CN(C(C(C)C1=CC(=C(C=C1)O)O)=O)CC1=CC=CC=C1 | C17H19NO3
